US09415049B2
Into a 25 mL 3-neck RBF equipped with a calcium chloride guard tube, N-{3-[(5-fluoro-2-{[4-(2-hydroxyethoxy)phenyl]amino}pyrimidin-4-yl)amino]phenyl}prop-2-enamide (I-1) (0.120 g), in THF (2 mL), NMO (0.030 g) and OSO4 (0.175 mL 4% in water) solution were charged at room temperature. The reaction mixture was stirred at room temperature for 3 to 4 h. The reaction was monitored on TLC using DCM:methanol (9:1). After completion of the reaction, the reaction mixture was poured in water and extracted into ethyl acetate. The organic layer was washed with sat. bicarbonate, dried over sodium sulfate and concentrated under reduced pressure at 40° C. The compound was purified by reverse phase Combiflash chromatography to give 25 mg of N-(3-((5-fluoro-2-((4-(2-hydroxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide. M+1=443.9. 1H NMR (DMSO-d6, 400 MHz): 3.603 (s, 2H), 3.660 (s, 2H), 3.906-3.930 (t, 2H, J=4.8), 4.062 (s, 1H), 4.846 (s, 2H), 5.791 (s, 1H), 6.782-6.804 (d, 2H, J=8.8), 7.233-7.274 (t, 1H, J=8.4), 7.425-7.445 (d, 1H, J=8), 7.537-7.515 (d, 3H, J=8.8), 7.972 (s, 1H), 8.053-8.062 (d, 1H, J=3.6), 8.983 (s, 1H), 9.345 (s, 1H), 9.557 (s, 1H).

reactant | N-{3-[(5-fluoro-2-{[4-(2-hydroxyethoxy)phenyl]amino}pyrimidin-4-yl)amino]phenyl}prop-2-enamide | 0.120 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCO)NC=1C=C(C=CC1)NC(C=C)=O | C21H20FN5O3
reactant | NMO | 0.030 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | DCM methanol | C(Cl)Cl.CO
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(3-((5-fluoro-2-((4-(2-hydroxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide | 25 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCO)NC=1C=C(C=CC1)NC(C(CO)O)=O | C21H22FN5O5
